US04150028
The required keto benzimidazole reactants in which R4 is hydrogen can be prepared from 4-chloro-3-nitrobenzyl alcohol. The benzyl alcohol is ammoniated to give 4-amino-3-nitrobenzyl alcohol which is hydrogenated catalytically to yield 4-hydroxymethyl-o-phenylenediamine. The phenylenediamine is reacted with cyanogen bromide by the methods known to the benzimidazole art to provide 2-amino-5(6)-hydroxymethylbenzimidazole. The hydroxymethyl group of the benzimidazole compound can be oxidized with Jones reagent (a solution of chromic acid and sulfuric acid in water) to provide the corresponding 5(6)-formyl benzimidazole.

reactant | keto benzimidazole | O=C1N=C2C(=N1)C=CC=C2 | C7H4N2O
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-3-nitrobenzyl alcohol | ClC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 4-amino-3-nitrobenzyl alcohol | NC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H8N2O3
